US05853699
f) N-Benzyloxycarbonyl-3-[4-(1,4,7-trioxaoctyl)-phenyl]-alanine-tert-butyl ester
7.43 g (20 mmol) of N-benzyloxycarbonyl-tyrosine-tert-butyl ester is reacted with 1-bromo-2-(2-methoxyethoxy)ethane to alkylated phenol analogously to Example a).

reactant | N-benzyloxycarbonyl-tyrosine-tert-butyl ester | 20 mmol, 7.43 g | C(C)(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C21H25NO5
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | BrCCOCCOC | C5H11BrO2
product | N-Benzyloxycarbonyl-3-[4-(1,4,7-trioxaoctyl)-phenyl]-alanine-tert-butyl ester | C(C)(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCCOCCOC)=O | C26H35NO7
